US04145432
In a substantially similar manner to that of Example 2-6), was treated a mixture of benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate (1.5 g) in acetone (15 ml) and 6N hydrochloric acid (1.5 ml) to give a reddish brown oil which was crystallized and washed with n-hexane to give crystals (1.30 g) of benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate.

reactant | benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-diethoxymethyl-1,4-dihydropyridine-3-carboxylate | 1.5 g | CC=1NC(=C(C(C1C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C(OCC)OCC | C28H32N2O8
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 6N, 1.5 ml | Cl | ClH
product | benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 1.30 g | CC=1NC(=C(C(C1C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C24H22N2O7
